US08791129B2
[2-Amino-6-(4,5-difluoro-2-pyrrolidin-1-ylmethylphenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone (“A48”)
129 mg of 1-(2-bromo-4,5-difluorobenzyl)pyrrolidine, 100 mg of potassium carbonate, 7 μl of water and 17 mg of [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloride are added to a solution of 150 mg of [2-amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone in 4 ml of ethanol under argon. The mixture is heated at 120° C. for 30 min; the hot mixture is filtered through kieselguhr, and the filtrate is evaporated and purified by chromatography (reversed phase HPLC).

reactant | 1-(2-bromo-4,5-difluorobenzyl)pyrrolidine | 129 mg | BrC1=C(CN2CCCC2)C=C(C(=C1)F)F | C11H12BrF2N
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 7 μl | O | H2O
reactant | [2-amino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 150 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C23H25BN4O3
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloride | 17 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [2-Amino-6-(4,5-difluoro-2-pyrrolidin-1-ylmethylphenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=C(C(=C1)F)F)CN1CCCC1 | C28H25F2N5O
